US07402595B2
6-bromo-2-[4-(5-oxo-4,5-dihydro-[1,2,4]oxadiazol-3-yl)benzyl]-4-phenyl-3-propionyl-2H-isoquinolin-1-one
To a suspension of 4-(6-bromo-1-oxo-4-phenyl-3-propionyl-1H-isoquinolin-2-ylmethyl)-N-hydroxybenzamidine (230 mg) in THF (10 ml) was added 1,1′-carbodiimidazole (89 mg) and then 1,8-diazabicyclo[5.4.0]-7-undecene (0.08 ml) was added and the mixture was stirred at 40° C. for 15 hrs. The residue was partitioned between 1N hydrochloric acid and ethyl acetate. The organic layer was washed with brine and dried by adding sodium sulfate. The solvent was evaporated under reduced pressure and the obtained residue was purified by silica gel column chromatography (n-hexane/ethyl acetate=1/1-+1/4) to give the title compound (102 mg, 48%).

reactant | 4-(6-bromo-1-oxo-4-phenyl-3-propionyl-1H-isoquinolin-2-ylmethyl)-N-hydroxybenzamidine | 230 mg | BrC=1C=C2C(=C(N(C(C2=CC1)=O)CC1=CC=C(C(=N)NO)C=C1)C(CC)=O)C1=CC=CC=C1 | C26H22BrN3O3
reactant | 1,8-diazabicyclo[5.4.0]-7-undecene | 0.08 ml | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | THF | 10 ml | C1CCOC1 | C4H8O
product | 6-bromo-2-[4-(5-oxo-4,5-dihydro-[1,2,4]oxadiazol-3-yl)benzyl]-4-phenyl-3-propionyl-2H-isoquinolin-1-one | 102 mg, 48% | BrC=1C=C2C(=C(N(C(C2=CC1)=O)CC1=CC=C(C=C1)C1=NOC(N1)=O)C(CC)=O)C1=CC=CC=C1 | C27H20BrN3O4
